US06124281
(c) 3-Benzoyl-7-chloropyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione
A solution of ethyl 4-(4-chloro-2-aminobenzoyl)-3-benzoyl-1H-pyrazole-5-carboxylate (620 mg, 1.56 mmol), 1-methyl-2-pyrrolidinone (4 mL) and ammonium acetate (120 mg, 1.56 mmol) was heated at 146° C. for 16.5 hours. The temperature was increased to 160° C. for 1 hour. The solution was allowed to cool to room temperature and water (60 mL) was added. The insoluble material (468 mg) was filtered, dried, and twice subjected to flash chromatography eluting with hexanes:ethyl acetate (90:10-50:50) to give impure product. The crude solid was triturated with ethanol (15 mL), washed with ethanol (3×10 mL) and dried to give the title compound (30.5 mg, 5.6% yield m.p. 370-373° C. dec.).

reactant | ethyl 4-(4-chloro-2-aminobenzoyl)-3-benzoyl-1H-pyrazole-5-carboxylate | 1.56 mmol, 620 mg | ClC1=CC(=C(C(=O)C=2C(=NNC2C(=O)OCC)C(C2=CC=CC=C2)=O)C=C1)N | C20H16ClN3O4
reactant | 1-methyl-2-pyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
reactant | ammonium acetate | 1.56 mmol, 120 mg | C(C)(=O)[O-].[NH4+]
solvent | water | 60 mL | O | H2O
product | 3-Benzoyl-7-chloropyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione | 30.5 mg, 5.6% yield | C(C1=CC=CC=C1)(=O)C1=NNC=2C(NC3=C(C(C21)=O)C=CC(=C3)Cl)=O | C18H10ClN3O3
